US05091403
(ii) methyl N-(3-methoxypropanoyl)anthranilate
To a suspension of 12.6 g (100 mmol) of the sodium salt obtained in the above (i) in 100 ml of benzene was dropwise added 8.0 ml (110 mmol) of thionyl chloride under stirring at room temperature for a period of 5 min. The mixture was then heated under reflux for 30 min. After chilling with ice, insolubles were removed by filtration. To the filtrate were added 15.1 g (100 mmol) of methyl anthranilate and 13.8 g (100 mmol) of potassium carbonate. The resulting mixture was then heated under reflux for 4 hrs. After the addition of ice water, the reaction mixture was washed sequentially with 6 N hydrochloric acid, saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, and then was dried over anhydrous sodium sulfate. The solvent was distilled off to leave 8.8 g of an oily product. The oily product was crystallized from hexane to give 8.3 g of the desired compound as a pale yellow crystal.

reactant | thionyl chloride | 110 mmol, 8.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methyl anthranilate | 100 mmol, 15.1 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
product | methyl N-(3-methoxypropanoyl)anthranilate | 8.8 g | COCCC(=O)NC=1C(C(=O)OC)=CC=CC1 | C12H15NO4
